US07728155B2
Treatment of (±)-benzyl 2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-2-ylmethylcarbamate (1.00 g, 2.96 mmol) with palladium on carbon (10 wt. %, 0.100 g) generally according to the procedure described for Example 2 provided 0.643 g (91%) of (±)-1-(2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-2-yl)methanamine as a white solid, hydrochloride salt. mp>225° C.; Anal. calcd. for C13H17NOHCl: C, 65.13; H, 7.57; N, 5.84. Found: C, 65.0; H, 7.87; N, 5.77.

reactant | (±)-benzyl 2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-2-ylmethylcarbamate | 2.96 mmol, 1.00 g | O1C2=C(CC1CNC(OCC1=CC=CC=C1)=O)C=C1CCCCC1=C2 | C21H23NO3
catalyst | palladium on carbon | 0.100 g | [Pd] | Pd
product | (±)-1-(2,3,5,6,7,8-hexahydronaphtho[2,3-b]furan-2-yl)methanamine | 0.643 g, 91% | O1C2=C(CC1CN)C=C1CCCCC1=C2 | C13H17NO
